US07625932B2
Preparation of 4-cyano-5-ethyl-1-methyl-3-(4-pyridin-4-yl-phenyl)-1H-pyrrole-2-carboxylic acid ethyl ester
Add 4-cyano-5-ethyl-1-methyl-3-(4-trifluoromethanesulfonyloxy-phenyl)-1H-pyrrole-2-carboxylic acid ethyl ester (0.204 g, 0.474 mmol, prepared in example E-97a or E-97b), 4-pyridyl boronic acid (0.116 g, 0.948 mmol), Pd2(dba)3 (13.02 mg, 0.01422 mmol), triphenyl phosphine (14.92 mg, 0.0569 mmol), 2M aqueous potassium carbonate (2 mL, 4.0 mmol) in 3 ml of dioxane, and heat to reflux with stirring. After 2.5 hours, cool the reaction mixture and pour into water. Extract the quenched reaction with ethyl acetate. Combine the organic extracts, dry over anhydrous sodium sulfate, filter, and concentrate under reduced pressure. Purify the residue by flash chromatography eluting with 1:1 ethyl acetate:hexanes to ethyl acetate to provide the title compound. Mass spectrum (m/e) 360.1 (M+1).

reactant | 4-cyano-5-ethyl-1-methyl-3-(4-trifluoromethanesulfonyloxy-phenyl)-1H-pyrrole-2-carboxylic acid ethyl ester | 0.474 mmol, 0.204 g | C(C)OC(=O)C=1N(C(=C(C1C1=CC=C(C=C1)OS(=O)(=O)C(F)(F)F)C#N)CC)C | C18H17F3N2O5S
reactant | 4-pyridyl boronic acid | 0.948 mmol, 0.116 g | N1=CC=C(C=C1)B(O)O | C5H6BNO2
reactant | triphenyl phosphine | 0.0569 mmol, 14.92 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | potassium carbonate | 4.0 mmol, 2M, 2 mL | C([O-])([O-])=O.[K+].[K+]
solvent | dioxane | 3 ml | O1CCOCC1 | C4H8O2
catalyst | Pd2(dba)3 | 0.01422 mmol, 13.02 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
solvent | water | O | H2O
product | 4-cyano-5-ethyl-1-methyl-3-(4-pyridin-4-yl-phenyl)-1H-pyrrole-2-carboxylic acid ethyl ester | C(C)OC(=O)C=1N(C(=C(C1C1=CC=C(C=C1)C1=CC=NC=C1)C#N)CC)C | C22H21N3O2
